** Energy Converters

.subckt SolarCells s+ s- e+ e-
G1 e- NSC0 s+ s- {Isc0/S0}
D1 NSC0 e- Dsc
R1 NSC0 e- {Rper1}
R2 NSC1 NSC0 {Rser1}
B1 NSC1 e- I=-I(E1)/Nper
E1 e+ e- NSC1 e- {Nser}
.params Nser=1 Nper=1
.params S0=1000 Isc0=1
.params Rser1=10m Rper1=1k
.params Is=10n Eg=1.11 N=1.2
.model Dsc D Is={Is} Eg={Eg} N={N}
.ends SolarCells
